US09035062B2
(2S,5S)-tert-Butyl 5-hydroxypiperidine-2-carboxylate (B)
To a solution of 67.2 g (200.4 mmol) of (2S,5S)-1-Benzyl 2-tert-butyl 5-hydroxypiperidine-1,2-dicarboxylate in ethanol (900 mL) was added 10.1 g of 10% palladium-carbon (water content ca. 50%), followed by vigorous stirring overnight at room temperature under hydrogen atmosphere. The catalyst of the mixture was filtered through Celite-pad to concentrate the filtrate, whereby 39.3 g of the title compound was afforded as a colorless solid (yield 97%). Enantiomeric excess: 99% ee or more (CHIRALPAK AD-H, 4.6×150 mm, UV 210 nm, diethylamine/hexane/ethanol=0.1/80/20, flow rate 1 mL/min., retention time 6.3 min.).

reactant | (2S,5S)-1-Benzyl 2-tert-butyl 5-hydroxypiperidine-1,2-dicarboxylate | 200.4 mmol, 67.2 g | O[C@H]1CC[C@H](N(C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C18H25NO5
solvent | ethanol | 900 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 10.1 g | [C].[Pd]
product | (2S,5S)-tert-Butyl 5-hydroxypiperidine-2-carboxylate | 39.3 g | O[C@H]1CC[C@H](NC1)C(=O)OC(C)(C)C | C10H19NO3
